US04074051
4-Dimethylaminomethyl-1-phenylpyrazolidin-3-one
Ethyl-1,3-bis (dimethylamino)-propane-2-carboxylate (20.2g) was added in one portion to a boiling mixture of phenyl-hydrazine (10.8g) and sodium isopropoxide (2.3g of sodium) in isopropanol. The solution was boiled under reflux for 30 minutes and the product (13.6g, 62%) was recovered in a manner similar to that described in Example 16. The product was identified as 4-dimethylaminomethyl-1-phenylpyrazolidin-3-one (melting point 117°-8° C) from its infrared spectrum.

reactant | Ethyl-1,3-bis (dimethylamino)-propane-2-carboxylate | 20.2g | C(C)OC(=O)C(CN(C)C)CN(C)C | C10H22N2O2
reactant | phenyl-hydrazine | 10.8g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium isopropoxide | 2.3g | CC([O-])C.[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-Dimethylaminomethyl-1-phenylpyrazolidin-3-one | CN(C)CC1C(NN(C1)C1=CC=CC=C1)=O | C12H17N3O
